US09163021B2
Ethyl (3-tert-Butyl-1H-1,2,4-triazol-5-yl)acetate
Ethyl 3-[(2,2-Dimethylpropanoyl)imino]-3-ethoxypropanoate (Preparation 117, 40 g, 0.165 mol) was dissolved in methanol (250 mL) and hydrazine hydrate (9.6 mL, 0.196 mol) was added at 0° C. The reaction mixture was stirred for 24 hours. The solvents concentrated in vacuo. The residue was dissolved in water (200 mL), and the solution was extracted with chloroform (3×100 mL). The combined organic extracts were dried over MgSO4 and evaporated to afford the title compound (20.7 g, 59%).

reactant | Ethyl 3-[(2,2-Dimethylpropanoyl)imino]-3-ethoxypropanoate | 0.165 mol, 40 g | CC(C(=O)N=C(CC(=O)OCC)OCC)(C)C | C12H21NO4
reactant | hydrazine hydrate | 0.196 mol, 9.6 mL | O.NN
solvent | methanol | 250 mL | CO | CH4O
product | Ethyl (3-tert-Butyl-1H-1,2,4-triazol-5-yl)acetate | 20.7 g, 59% | C(C)(C)(C)C1=NNC(=N1)CC(=O)OCC | C10H17N3O2
